US07320973B2
(R)-1-[(4-Pyrrolidinophenyl)acetyl]pyrrolidine-2-carboxylic acid [2-(2-bromo-5-fluorobenzyloxy)phenyl]amide
Toluene (37.8 ml) and N-methylmorpholine (1.10 g, 10.8 mmol) were added to N-[(4-pyrrolidinophenyl)acetyl]-D-proline (2.90 g, 9.59 mmol). Ethyl chloroformate (1.14 g, 10.5 mmol) was added to the obtained mixture in an ice bath, and they were stirred for 2 hours. 2-(2-Bromo-5-fluorobenzyloxy)aniline hydrochloride (3.19 g, 9.59 mmol) and N-methylmorpholine (1.16 g, 11.5 mmol) were added thereto and the temperature of the obtained mixture was slowly elevated to room temperature for a period of 16 hours. Water (30 ml), citric acid (1.61 g) and toluene (10 ml) were added to the reaction mixture for the distribution. The organic layer was washed with water (10 ml), water (10 ml), 6.7% aqueous sodium hydrogencarbonate solution (10 ml), 6.7% aqueous sodium hydrogencarbonate solution (10 ml), water (10 ml) and water (10 ml). After drying over sodium sulfate, the solvent was evaporated under reduced pressure to obtain the title compound in the form of a light yellow solid (5.13 g, 93%).

reactant | N-methylmorpholine | 10.8 mmol, 1.10 g | CN1CCOCC1 | C5H11NO
reactant | N-[(4-pyrrolidinophenyl)acetyl]-D-proline | 9.59 mmol, 2.90 g | N1(CCCC1)C1=CC=C(C=C1)CC(=O)N1[C@@H](C(=O)O)CCC1 | C17H22N2O3
reactant | Ethyl chloroformate | 10.5 mmol, 1.14 g | ClC(=O)OCC | C3H5ClO2
reactant | 2-(2-Bromo-5-fluorobenzyloxy)aniline hydrochloride | 9.59 mmol, 3.19 g | Cl.BrC1=C(COC2=C(N)C=CC=C2)C=C(C=C1)F
reactant | N-methylmorpholine | 11.5 mmol, 1.16 g | CN1CCOCC1 | C5H11NO
reactant | citric acid | 1.61 g | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | Water | 30 ml | O | H2O
solvent | Toluene | 37.8 ml | C1(=CC=CC=C1)C | C7H8
product | (R)-1-[(4-Pyrrolidinophenyl)acetyl]pyrrolidine-2-carboxylic acid [2-(2-bromo-5-fluorobenzyloxy)phenyl]amide | BrC1=C(COC2=C(C=CC=C2)NC(=O)[C@@H]2N(CCC2)C(CC2=CC=C(C=C2)N2CCCC2)=O)C=C(C=C1)F | C30H31BrFN3O3
